US07468375B2
Step 1: Ethyl 4,5-dibromo-1-(4-fluorobenzyl)-2-({(2-ethoxy-2-oxoethyl)[(4-methylphenyl) sulfonyl]amino}methyl)-1H-pyrrole-3-carboxylate
To a stirring solution of ethyl 4,5-dibromo-2-(bromomethyl)-1-(4-fluorobenzyl)-1H-pyrrole-3-carboxylate (104.0 g, 0.209 mol) and ethyl N-[(4-methylphenyl)sulfonyl]glycinate (53.7 g, 0.209 mol, prepared by the method of: Ginzel, K. D.; Brungs, P.; Steckhan, E. Tetrahedron 1989, 45, 1691-1701) in anhydrous THF (1.5 L) was added NaH (60% in mineral oil, 8.40 g, 0.210 mol) in several small portions. The mixture was allowed to stir at room temperature for 16 hours. It was quenched with aq. NH4Cl solution, and extracted with ethyl acetate. The organic layer was dried over Na2SO4, concentrated and the residue was purified by column chromatography with ethyl acetate/hexane (1:4, v:v) to provide the title compound as glue-like material (124 g, 88% yield).

reactant | ethyl 4,5-dibromo-2-(bromomethyl)-1-(4-fluorobenzyl)-1H-pyrrole-3-carboxylate | 0.209 mol, 104.0 g | BrC=1C(=C(N(C1Br)CC1=CC=C(C=C1)F)CBr)C(=O)OCC | C15H13Br3FNO2
reactant | ethyl N-[(4-methylphenyl)sulfonyl]glycinate | CC1=CC=C(C=C1)S(=O)(=O)NCC(=O)OCC | C11H15NO4S
reactant | NaH | 0.210 mol, 8.40 g | [H-].[Na+]
solvent | THF | 1.5 L | C1CCOC1 | C4H8O
product | Ethyl 4,5-dibromo-1-(4-fluorobenzyl)-2-({(2-ethoxy-2-oxoethyl)[(4-methylphenyl) sulfonyl]amino}methyl)-1H-pyrrole-3-carboxylate | BrC=1C(=C(N(C1Br)CC1=CC=C(C=C1)F)CN(S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)OCC)C(=O)OCC | C26H27Br2FN2O6S
